* Subcircuit fulladder

.subckt fulladder net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ 

* c:\users\priya\esim-workspace\fulladder\fulladder.cir

.include xor_gate.sub
.include halfadder.sub
x3 net-_x2-pad4_ net-_x1-pad4_ net-_u1-pad5_ xor_gate
x1 net-_u1-pad2_ net-_u1-pad3_ net-_x1-pad3_ net-_x1-pad4_ halfadder
x2 net-_u1-pad1_ net-_x1-pad3_ net-_u1-pad4_ net-_x2-pad4_ halfadder

* Control Statements

.ends fulladder