* Subcircuit halfadder

.subckt halfadder net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ 

* c:\fossee\esim\library\subcircuitlibrary\halfadder\halfadder.cir

.include xor_gate.sub
.include and_gate.sub
x2 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad4_ and_gate
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ xor_gate

* Control Statements

.ends halfadder