* c:\users\priya\esim-workspace\fulladder\fulladder.cir

.include xor_gate.sub
.include halfadder.sub
x1 net-_u1-pad2_ net-_u1-pad3_ net-_x1-pad3_ net-_x1-pad4_ halfadder
x2 net-_u1-pad1_ net-_x1-pad3_ net-_u1-pad4_ net-_x2-pad4_ halfadder
x3 net-_x2-pad4_ net-_x1-pad4_ net-_u1-pad5_ xor_gate
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
