* c:\users\priya\esim-workspace\wallace3tree\wallace3tree.cir

.include halfadder.sub
.include fulladder.sub
.include and_gate.sub
x2 /b0 /a0 /z0 and_gate
x1 /b0 /a1 net-_x1-pad3_ and_gate
x3 /b0 /a2 net-_x3-pad3_ and_gate
x5 /b1 /a0 net-_x5-pad3_ and_gate
x6 /b1 /a1 net-_x6-pad3_ and_gate
x4 /b1 /a2 net-_x4-pad3_ and_gate
x7 net-_x5-pad3_ net-_x1-pad3_ /z1 net-_x7-pad4_ halfadder
x9 net-_x8-pad5_ net-_x4-pad3_ net-_x14-pad2_ net-_x15-pad2_ halfadder
x10 /b2 /a0 net-_x10-pad3_ and_gate
x11 /b2 /a1 net-_x11-pad3_ and_gate
x12 /b2 /a2 net-_x12-pad3_ and_gate
x13 net-_x10-pad3_ net-_x13-pad2_ /z2 net-_x13-pad4_ halfadder
* u1  /a1 /a2 /a0 /b0 /b1 /b2 /z0 /z1 /z2 /z3 /z4 /z5 port
x8 net-_x6-pad3_ net-_x3-pad3_ net-_x7-pad4_ net-_x13-pad2_ net-_x8-pad5_ fulladder
x15 net-_x12-pad3_ net-_x15-pad2_ net-_x14-pad5_ /z4 /z5 fulladder
x14 net-_x11-pad3_ net-_x14-pad2_ net-_x13-pad4_ /z3 net-_x14-pad5_ fulladder
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
