* c:\fossee\esim\library\subcircuitlibrary\xor_gate\xor_gate.cir

m2  net-_m14-pad1_ net-_m1-pad2_ net-_m1-pad1_ net-_m14-pad1_ mosfet_p
m1  net-_m1-pad1_ net-_m1-pad2_ gnd gnd mosfet_n
m4  net-_m14-pad1_ net-_m3-pad2_ net-_m11-pad2_ net-_m14-pad1_ mosfet_p
m3  net-_m11-pad2_ net-_m3-pad2_ gnd gnd mosfet_n
m14  net-_m14-pad1_ net-_m10-pad3_ net-_m13-pad1_ net-_m14-pad1_ mosfet_p
m13  net-_m13-pad1_ net-_m10-pad3_ gnd gnd mosfet_n
m7  net-_m14-pad1_ net-_m3-pad2_ net-_m10-pad1_ net-_m14-pad1_ mosfet_p
m8  net-_m10-pad1_ net-_m11-pad2_ net-_m10-pad3_ net-_m10-pad1_ mosfet_p
m9  net-_m14-pad1_ net-_m1-pad1_ net-_m10-pad1_ net-_m14-pad1_ mosfet_p
m10  net-_m10-pad1_ net-_m1-pad2_ net-_m10-pad3_ net-_m10-pad1_ mosfet_p
m5  net-_m10-pad3_ net-_m3-pad2_ net-_m5-pad3_ net-_m5-pad3_ mosfet_n
m6  net-_m5-pad3_ net-_m1-pad1_ gnd gnd mosfet_n
m11  net-_m10-pad3_ net-_m11-pad2_ net-_m11-pad3_ net-_m11-pad3_ mosfet_n
m12  net-_m11-pad3_ net-_m1-pad2_ gnd gnd mosfet_n
* u1  net-_m1-pad2_ net-_m3-pad2_ net-_m13-pad1_ port
v1  net-_m14-pad1_ gnd 3.3v
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
